US04898949
1,1-Bis(2-fluoro-4-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanol
To a solution of 1,5-dimethyltetrazole (4.6 g, 4.7 mmoles) in tetrahydrofuran (40 mL) at -50° C. was added butyl lithium solution (21.4 mL of a 2.2M solution, 4.7 mmoles). After stirring for 10 minutes, a solution of 2,2'-difluoro-4,4'-dimethylbenzophenone in tetrahydrofuran (15 mL) was added. The solution was stirred for 2.5 hours during which time it was allowed to warm to -10° C. The reaction was quenched by adding 1N hydrochloric acid. The layers were separated and the aqueous layer was extracted with methylene chloride. The combined organic fractions were dried (MgSO4) and evaporated. The residue was triturated with diethyl ether and crystallized from isopropyl acetate to give 8.0 g of the title compound; m.p.=150°-151° C. MS: M+ =344.

reactant | 1,5-dimethyltetrazole | 4.7 mmoles, 4.6 g | CN1N=NN=C1C | C3H6N4
reactant | butyl lithium | C(CCC)[Li]
reactant | 2,2'-difluoro-4,4'-dimethylbenzophenone | FC1=C(C(=O)C2=C(C=C(C=C2)C)F)C=CC(=C1)C | C15H12F2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1,1-Bis(2-fluoro-4-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanol | 8.0 g | FC1=C(C=CC(=C1)C)C(CC1=NN=NN1C)(O)C1=C(C=C(C=C1)C)F | C18H18F2N4O
